US08957089B2
85.5 2-({1-[1-(4-Chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine hydrochloride
A solution of tert-butyl[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate (440 mg, 1 mmol) methylenehloride (10 ml) was treated with 5N HCl in dimethylether (0.5 ml) and stirred over night at room temperature. The solvent was removed, the residue triturated with diisopropyl ether and the insoluble slid collected. Yield: 370 mg (0.98 mmol, 98%)

reactant | tert-butyl[2-({1-[1-(4-chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]carbamate | 1 mmol, 440 mg | C(C)(C)(C)OC(NCCOC1=CC=C2CCN=C(C2=C1)C1(CC1)C1=CC=C(C=C1)Cl)=O | C25H29ClN2O3
reactant | HCl | 5N | Cl | ClH
solvent | dimethylether | 0.5 ml | COC | C2H6O
product | 2-({1-[1-(4-Chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CC1)C1=NCCC2=CC=C(C=C12)OCCN | InChI=1S/C20H21ClN2O.ClH/c21-16-4-2-15(3-5-16)20(8-9-20)19-18-13-17(24-12-10-22)6-1-14(18)7-11-23-19;/h1-6,13H,7-12,22H2;1H
